US05688815
0.9 g of 3-benzyloxy-2-[(4-benzyloxy-3-methoxy-phenyl)-hydroxy-methyl]-pyridin-4-ol is dissolved in 100 ml of methanol and hydrogenated at room temperature in the presence of 0.18 g of palladium on carbon (5%) until 2 mol of H2 per mol of starting material have been taken up. The catalyst is removed by filtration and the flitrate is concentrated by evaporation. Recrystallisation from methanol yields 2-[hydroxy-(4-hydroxy-3-methoxy-phenyl)-methyl]-pyridine-3,4-diol. Colourless crystals, m.p.: from 210° C. with decomposition.

reactant | 3-benzyloxy-2-[(4-benzyloxy-3-methoxy-phenyl)-hydroxy-methyl]-pyridin-4-ol | 0.9 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1O)C(O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC | C27H25NO5
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.18 g | [Pd] | Pd
product | 2-[hydroxy-(4-hydroxy-3-methoxy-phenyl)-methyl]-pyridine-3,4-diol | OC(C1=NC=CC(=C1O)O)C1=CC(=C(C=C1)O)OC | C13H13NO5
